Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
betadine  / Codeine / Ativan
 
Attending: ___.
 
Chief Complaint:
Left knee pain and swelling
 
Major Surgical or Invasive Procedure:
Left knee aspirate - No growth to date with almost no fluid in 
knee.
 
History of Present Illness:
(From ED admission note): ___ with PMH significant for recurrent 
chondrosarcoma of the L distal femur and proximal knee s/p 
proximal tibia reconstruction and hinged L TKA in ___ 
requiring plastic surgery closure (gastroc flap) presents with 2 
week history of worsening L knee pain.  Patient states that she 
first noticed the symptoms approximately 2 weeks ago and thought 
her swelling and pain was attributable to strain from ___.  
However, over the following days she noticed progressive 
worsening of her pain and decreasing ability to actively or 
passively flex her knee.  She also has had at least 2 episodes 
of fever, nausea and malaise over the same time period which she 
thought was attributable to a cold.  She has been able to bear 
weight on the L lower extremity, but feels as though it has been 
increasingly difficult to do so over the past 72 hours.
in 
 
Past Medical History:
Depression, anxiety, reactive airway disease. 
s/p three C-sections, ___, ___ 
s/p breast augmentation  
 
Social History:
___
Family History:
Non contributory 
 
Pertinent Results:
___ 11:30PM BLOOD WBC-8.2 RBC-4.09* Hgb-10.8* Hct-34.8* 
MCV-85 MCH-26.3* MCHC-30.9* RDW-14.9 Plt ___
___ 11:30PM BLOOD Neuts-46.4* Lymphs-44.2* Monos-5.4 
Eos-2.6 Baso-1.4
___ 11:30PM BLOOD CRP-8.6*
___ 11:30PM BLOOD ESR-40*

___ 2:15 pm JOINT FLUID     Site: KNEE      LEFT KNEE. 
      Note: Culture results may be compromised by the limited 
volume (less
      than 1ml) of specimen received. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary): 

 
Brief Hospital Course:
Patient was admitted from the ED on ___ for the above issues. 
She intially refused aspiration of her left knee due to anxiety. 
She agreed to ultrasound guided aspiration of her knee in 
radiology under conscious sedation on ___. Very little fluid 
could be seen on ultrasound but a small sample was sent for Gram 
stain and culture. The results of the culture on ___ were 
negative for any growth. The patient's clinical appearance and 
left knee continued to improve and she was deemed stable for 
discharge home on ___.
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
three (3) hours Disp #*70 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left knee mechanical irritation/inflammation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You may weight bear as tolerated on your left leg. You should 
attempt to keep the leg elevated as much as possible while 
sitting or lying down. You may ice the leg as needed to help 
with pain and swelling.
 
Followup Instructions:
___